US06969724B2
(±)-7-[(4-phenylpiperidin-1-yl)methyl]-6,7-dihydro-5H-benzocycloheptene hydrochloride
0.2 g (0.6 mmol) of (±)-7-[(4-phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol were dissolved in 5 mL of 1,4-dioxane and 16 mL of 37% HCl and heated to reflux for 2 h. The reaction mixture was then basified with NaOH and extracted with CH2Cl2. The organic phase was dried and the solvent was removed in vacuo. The resulting crude product was purified by chromatography, eluting with a mixture CH2Cl2/MeOH 100:2 respectively; The compound was dissolved in Et2O and brought to acidic pH with Et2O/HCl. The resulting white solid was triturated with Et2O, filtered and dried, yielding 0.02 g of the title compound. m.p.=268-270° C.

reactant | (±)-7-[(4-phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | 0.6 mmol, 0.2 g | C1(=CC=CC=C1)C1CCN(CC1)CC1CC(C2=C(CC1)C=CC=C2)O | C23H29NO
reactant | HCl | 16 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (±)-7-[(4-phenylpiperidin-1-yl)methyl]-6,7-dihydro-5H-benzocycloheptene hydrochloride | 0.02 g | Cl.C1(=CC=CC=C1)C1CCN(CC1)CC1CCC2=C(C=C1)C=CC=C2 | InChI=1S/C23H27N.ClH/c1-2-6-20(7-3-1)23-14-16-24(17-15-23)18-19-10-12-21-8-4-5-9-22(21)13-11-19;/h1-10,12,19,23H,11,13-18H2;1H
